US08633313B2
To a solution of methyl (7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)methanol (50 mg, 0.15 mmol) in DCM (0.5 mL) was added pyridinium dichromate (113 mg, 0.3 mmol) at 25° C. The reaction mixture was stirred for overnight at same temperature. The reaction mixture was filtered through Celite™. The filtrate was concentrated in vacuo to give 7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde: LC-MS (ESI) m/z 331.1 [M+H]+. It was carried on crude for next step.

reactant | methyl (7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)methanol | 0.15 mmol, 50 mg | CC(O)C=1C(=NC2=CC(=CN=C2C1)F)C1=C(C=CC=C1)S(=O)(=O)C | C17H15FN2O3S
reactant | pyridinium dichromate | 0.3 mmol, 113 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde | FC1=CN=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)C=O | C16H11FN2O3S
